US07094801B2
Ex-76A: To a suspension of 2,4-dimethoxybenzoic acid (0.36 g, 2 mmol) and 8 ml of POCl3 in a 50 ml of a round-bottom flask, 2,3-diaminopyridine (0.22 g, 2 mmol) was added. The mixture was heated to reflux for 4 hours and then cooled to room temperature. The reaction mixture was then concentrated to remove most of the POCl3. The residue was carefully treated with 1N HCl at 0° C. using a water-ice bath, then neutralized with NaOH (50%). The off-white solid was filtered to give 2-(2,4-dimethoxy-phenyl)-3H-imidazo[4,5-b]pyridine (0.44 g, 88%). 1H-NMR (DMSO-d6) δ 8.28–8.36 (m, 2H), 7.97 (d, J=8 Hz, 1H), 7.21–7.25 (m, 1H), 6.80 (s, 1H), 6.78 (d, J=9 Hz, 1H), 4.05 (s, 3H), 3.91 (s, 3H). HRMS (ES+) Calcd. for C24H19N3O5: 430.1403. Found: 430.1414.

reactant | 2,4-dimethoxybenzoic acid | 2 mmol, 0.36 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | POCl3 | 8 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-diaminopyridine | 2 mmol, 0.22 g | NC1=NC=CC=C1N | C5H7N3
product | 2-(2,4-dimethoxy-phenyl)-3H-imidazo[4,5-b]pyridine | 0.44 g, 88% | COC1=C(C=CC(=C1)OC)C1=NC=2C(=NC=CC2)N1 | C14H13N3O2
